US05495023
To a 28 wt % solution of sodium methoxide in methanol (226 g) at 20° C. was added dropwise diethyl phosphonoacetic acid ethyl ester (239.8 g). The solution was stirred at the same temperature for 30 minutes under a nitrogen atmosphere. A solution of (E)-2-methyl-2-pentenal (100 g) in tetrahydrofuran (200 ml) was added dropwise at 20° C. during 20 minutes and the solution was stirred for 1 hour. The reaction mixture was poured into chilled water and extracted twice with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give methyl (E,E)-4-methyl-2,4-heptadienoate (169.2 g) as an oil. This oil was used in the next reaction without further purification.

reactant | sodium methoxide | C[O-].[Na+]
reactant | diethyl phosphonoacetic acid ethyl ester | 239.8 g | C(C)OC(C(P(=O)(O)O)(CC)CC)=O | C8H17O5P
reactant | (E)-2-methyl-2-pentenal | 100 g | C/C(/C=O)=C\CC | C6H10O
reactant | water | O | H2O
solvent | methanol | 226 g | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | methyl (E,E)-4-methyl-2,4-heptadienoate | 169.2 g | C/C(/C=C/C(=O)OC)=C\CC | C9H14O2
